US08222248B2
To a suspension of 2-(2,6-dichlorophenyl)-1-methyl-1H-benzoimidazole-5-carboxylic acid ethyl ester (400 mg) in EtOH (8 mL) was added 1.0 N NaOH (2.0 mL) and the mixture was stirred at 60° C. for 90 min. The ethanol was removed under reduced pressure and water (10 mL) was added. Any insoluble material was filtered and 2.0N HCl (2.0 mL) was added to the filtrate. The resulting precipitate was filtered, washed with water and dried under reduced pressure to give 2-(2,6-dichlorophenyl)-1-methyl-1H-benzoimidazole-5-carboxylic acid as a white solid, mp>250° C.; MS (m/z) 321 (M+1).

reactant | 2-(2,6-dichlorophenyl)-1-methyl-1H-benzoimidazole-5-carboxylic acid ethyl ester | 400 mg | C(C)OC(=O)C1=CC2=C(N(C(=N2)C2=C(C=CC=C2Cl)Cl)C)C=C1 | C17H14Cl2N2O2
reactant | NaOH | 1.0 N, 2.0 mL | [OH-].[Na+]
solvent | EtOH | 8 mL | CCO | C2H6O
product | 2-(2,6-dichlorophenyl)-1-methyl-1H-benzoimidazole-5-carboxylic acid | ClC1=C(C(=CC=C1)Cl)C1=NC2=C(N1C)C=CC(=C2)C(=O)O | C15H10Cl2N2O2
